US05985870
Preparation of 6-Chlorosulfonylbenzothiazole
Thionyl chloride (4 mL) was added to a suspension of the benzothiazole-6-sulfonic acid (0.60 g, 2.79 mmol) in dichloroethane (15 mL) and the reaction mixture was heated at reflux and dimethylformamide (5 mL) was added to the reaction mixture to yield a clear solution. After 1.5 hr. at reflux, the solvent was removed in vacuo and excess HCl and thionyl chloride was chased by evaporation with dichloroethane.

reactant | Thionyl chloride | 4 mL | S(=O)(Cl)Cl | Cl2OS
reactant | benzothiazole-6-sulfonic acid | 2.79 mmol, 0.60 g | S1C=NC2=C1C=C(C=C2)S(=O)(=O)O | C7H5NO3S2
reactant | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | 6-Chlorosulfonylbenzothiazole | ClS(=O)(=O)C1=CC2=C(N=CS2)C=C1 | C7H4ClNO2S2
